US06608077B2
a) N-(3-aminosulfonyl-4-chloro-2-hydroxyphenyl)-N′-(3-benzyloxythieno[2,3-b]pyridin-2-yl)urea
Under Ar, the mixture of 3-(benzyloxy)thieno[2,3-b]pyridine-2-carboxylic acid (150 mg, 0.53 mmol) in 2 mL of N,N-dimethyl-formamide was heated to 80° C. Diphenylphosphoryl azide (146 mg, 0.53 mmol), 3-amino-6-chloro-2-hydroxybenzenesulfonamide (117 mg, 0.53 mmol) and triethyl amine (0.054 mL, 0.53 mmol) were added. The resulting mixture was heated for another 18 hours. when kept temperature at 70° C. Purification upon Gilson HPLC, eluting with acetonitrile/water (10/90, v/v to 90/10, v/v, over 10 min), gave the desired product (70 mg, 26%). LC-MS (m/z) 505.2 (M+).

reactant | 3-(benzyloxy)thieno[2,3-b]pyridine-2-carboxylic acid | 0.53 mmol, 150 mg | C(C1=CC=CC=C1)OC1=C(SC2=NC=CC=C21)C(=O)O | C15H11NO3S
reactant | Diphenylphosphoryl azide | 0.53 mmol, 146 mg | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 3-amino-6-chloro-2-hydroxybenzenesulfonamide | 0.53 mmol, 117 mg | NC=1C(=C(C(=CC1)Cl)S(=O)(=O)N)O | C6H7ClN2O3S
reactant | triethyl amine | 0.53 mmol, 0.054 mL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethyl-formamide | 2 mL | CN(C=O)C | C3H7NO
product | N-(3-aminosulfonyl-4-chloro-2-hydroxyphenyl)-N′-(3-benzyloxythieno[2,3-b]pyridin-2-yl)urea | 70 mg, 26% | NS(=O)(=O)C=1C(=C(C=CC1Cl)NC(=O)NC1=C(C=2C(=NC=CC2)S1)OCC1=CC=CC=C1)O | C21H17ClN4O5S2
